US08664220B2
Step 1: 3-[4′-(4-Formyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-propionic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 10, using 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde and [4-(2-ethoxycarbonylethyl)phenyl]boronic acid.

reactant | 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C11H8BrNO2
reactant | [4-(2-ethoxycarbonylethyl)phenyl]boronic acid | C(C)OC(=O)CCC1=CC=C(C=C1)B(O)O | C11H15BO4
product | 3-[4′-(4-Formyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C=O)=O | C22H21NO4
